US09120749B2
1-(6-bromo-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone
Following general procedure C, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (285 mg, 1.00 mmol) was reacted with 4-(pyrrolidin-1-ylmethyl)aniline (374 mg, 1.50 mmol) to afford the desired product (182 mg, 43%) as a light orange solid. ESI MS m/z 424 [C22H22BrN3O+H]+

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 1.00 mmol, 285 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | 4-(pyrrolidin-1-ylmethyl)aniline | 1.50 mmol, 374 mg | N1(CCCC1)CC1=CC=C(N)C=C1 | C11H16N2
product | 1-(6-bromo-4-((4-(pyrrolidin-1-ylmethyl)phenyl)amino)quinolin-3-yl)ethanone | 182 mg, 43% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1=CC=C(C=C1)CN1CCCC1 | C22H22BrN3O
